US08604050B2
25.3 Ethyl 6-trimethylsilyl-1-[(thiazol-2-yl)methyl]-1H-indole-2-carboxylate (Compound IIc)
This compound was prepared according to a process similar to that described in step 20.2, by reacting 570 mg (2.18 mmol) of ethyl 6-trimethylsilyl-1H-indole-2-carboxylate with 440 mg (3.27 mmol) of 2-(chloromethyl)thiazole in the presence of 0.14 g (3.27 mmol) of sodium hydride (55%). The crude reaction product is then purified by flash chromatography on a column of silica gel in a mixture of heptane and ethyl acetate, to give 520 mg of the expected product.

reactant | ethyl 6-trimethylsilyl-1H-indole-2-carboxylate | 2.18 mmol, 570 mg | C[Si](C1=CC=C2C=C(NC2=C1)C(=O)OCC)(C)C | C14H19NO2Si
reactant | 2-(chloromethyl)thiazole | 3.27 mmol, 440 mg | ClCC=1SC=CN1 | C4H4ClNS
reactant | sodium hydride | 3.27 mmol, 0.14 g | [H-].[Na+]
product | Ethyl 6-trimethylsilyl-1-[(thiazol-2-yl)methyl]-1H-indole-2-carboxylate | 520 mg | C[Si](C1=CC=C2C=C(N(C2=C1)CC=1SC=CN1)C(=O)OCC)(C)C | C18H22N2O2SSi
